US04147805
According to the procedure of Example 1, 1-chloro-2-[4-(methylthio)phenoxy]ethane from 4-(methylthio)phenol and 1-chloro-2-bromoethane is reacted with n-octylamine to provide N-[2-[4-[(1-methylethyl)thio]phenoxy]ethyl]octylamine hydrochloride.

reactant | 1-chloro-2-[4-(methylthio)phenoxy]ethane | ClCCOC1=CC=C(C=C1)SC | C9H11ClOS
reactant | 4-(methylthio)phenol | CSC1=CC=C(C=C1)O | C7H8OS
reactant | 1-chloro-2-bromoethane | ClCCBr | C2H4BrCl
reactant | n-octylamine | C(CCCCCCC)N | C8H19N
product | N-[2-[4-[(1-methylethyl)thio]phenoxy]ethyl]octylamine hydrochloride | Cl.CC(C)SC1=CC=C(OCCNCCCCCCCC)C=C1 | InChI=1S/C19H33NOS.ClH/c1-4-5-6-7-8-9-14-20-15-16-21-18-10-12-19(13-11-18)22-17(2)3;/h10-13,17,20H,4-9,14-16H2,1-3H3;1H
